* Z:\mnt\design.r\spice\examples\1761-1.2.asc
V1 IN 0 PWL(0 0 1 10)
C1 OUT 0 10µ
Rload OUT 0 500
C2 OUT N001 .01µ
XU1 IN 0 IN N001 OUT LT1761-1.2
.tran 1
.lib LT1761.lib
.backanno
.end
